US07507740B2
Production of 4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5,6-dihydro-4H-pyrrolo[3,2,1-de]pteridine
To a suspension of 2-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethanol (50 mg) and tributylphosphine (54 mg) in toluene (2.5 mL) was added 1,1′-[(E)-diazene-1,2-diyldicarbonyl]dipiperidine (67 mg), and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was diluted with water (15 mL) and extracted with ethyl acetate (20 mL×3). The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (basic silica gel, eluent:ethyl acetate/methanol=100/0→90/10). The object fraction was concentrated under reduced pressure and dried to give the title compound (36 mg) as a white powder.

reactant | 2-[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethanol | 50 mg | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC=1C2=C(N=CN1)C=CN2CCO | C21H21N5O2
reactant | tributylphosphine | 54 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-[(E)-diazene-1,2-diyldicarbonyl]dipiperidine | 67 mg | N(=N\C(=O)N1CCCCC1)/C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 mL | O | H2O
product | 4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5,6-dihydro-4H-pyrrolo[3,2,1-de]pteridine | 36 mg | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)N1CCN2C3=C(N=CN=C13)C=C2 | C21H19N5O
